US08119617B2
{2-[(4′-Octyloxy-biphenyl-4-carbonyl)-amino]-benzyl}-phosphonic acid diethylester is dissolved in CH2Cl2 and and the mixture obtained is treated with trimethylsilyl iodide at 0°. The mixture obtained is stirred at 0° for several hours and diluted with toluene. From the mixture obtained solvent is evaporated. The evaporation residue obtained is dissolved in 1N NaOH solution, washed with EtOAc, HCl is added, precipitation occurs and the precipitate obtained is collected. {2-[(4′-Octyloxy-biphenyl-4-carbonyl)-amino]-benzyl}-phosphonic acid is obtained.

reactant | {2-[(4′-Octyloxy-biphenyl-4-carbonyl)-amino]-benzyl}-phosphonic acid diethylester | C(C)OP(OCC)(=O)CC1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCC | C32H42NO5P
reactant | trimethylsilyl iodide | C[Si](C)(C)I | C3H9ISi
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 1N | [OH-].[Na+]
product | {2-[(4′-Octyloxy-biphenyl-4-carbonyl)-amino]-benzyl}-phosphonic acid | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NC1=C(CP(O)(O)=O)C=CC=C1 | C28H34NO5P
